US05703096
6(a) 5-{4-[2-(4-Pyridylmethyleneaminooxy)ethoxy]-benzyl}-3-tritylthiazolidine-2,4-dione
Following a procedure similar to that described in Example 3(a), but using 0.88 g of 2-(4-pyridylmethyleneaminooxy)ethanol (prepared as described in Preparation 6), 2.00 g of 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione, 1.32 ml of tributylphosphine and 1.23 g of 1,1'-(azodicarbonyl)dipiperazine, 1.10 g of the title compound were obtained as a foam-like solid.

reactant | 2-(4-pyridylmethyleneaminooxy)ethanol | 0.88 g | N1=CC=C(C=C1)C=NOCCO | C8H10N2O2
reactant | 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione | 2.00 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | tributylphosphine | 1.32 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1'-(azodicarbonyl)dipiperazine | 1.23 g | N(=NC(=O)N1CCNCC1)C(=O)N1CCNCC1 | C10H18N6O2
product | 5-{4-[2-(4-Pyridylmethyleneaminooxy)ethoxy]-benzyl}-3-tritylthiazolidine-2,4-dione | 1.10 g | N1=CC=C(C=C1)C=NOCCOC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C37H31N3O4S
